US05068325
8k) 2-Amino-6-(4-phenyl-3-buten-1-yl)-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepine
Prepared analogously to Example 8 from 4-phenyl-3-buten-1-yl-bromide [boiling point 93° C./1,5 torr; prepared from 1-cyclopropyl-1-phenyl-carbinol with phosphorous tribromide] with 4 equivalents of 2-amino-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepine in pure chloroform during 8 hours at 60° C. Yield: 39% of theory, Melting point: 157°-158° C. (chloroform/toluene)

reactant | 4-phenyl-3-buten-1-yl-bromide | C1(=CC=CC=C1)C=CCCBr | C10H11Br
reactant | 2-amino-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepine | 4 equivalents | NC=1SC=2CCNCCC2N1 | C7H11N3S
reactant | chloroform toluene | C(Cl)(Cl)Cl.C1(=CC=CC=C1)C
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-Amino-6-(4-phenyl-3-buten-1-yl)-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepine | Yield: 39% | NC=1SC=2CCN(CCC2N1)CCC=CC1=CC=CC=C1 | C17H21N3S
